US04985178
Sodium ethoxide (prepared from 0.70 g of Na and 30 mL of ethanol) was added to an ice-cold mixture of diethyl p-nitrobenzylphosphonate (9.09 g, 0.033 mole) and 3-methyl-p-anisaldehyde (5.0 g, 0.033 mole) in ethanol (about 100 mL). The resulting mixture was stirred overnight. The solid product was filtered, washed with ethanol and vacuum dried to give MMONS, 3-methyl-4-methoxy-4'-nitrostilbene (4.946 g, 0.0157 mole, 47.6% yield, m.p. 109°-111° C.). Recrystallization of MMONS from chloroform/ethanol gave crystals suitable for x-ray analysis.

reactant | Sodium ethoxide | 30 mL, 0.70 g | [O-]CC.[Na+]
reactant | diethyl p-nitrobenzylphosphonate | 0.033 mole, 9.09 g | [N+](=O)([O-])C1=CC=C(CP(OCC)(OCC)=O)C=C1 | C11H16NO5P
reactant | 3-methyl-p-anisaldehyde | 0.033 mole, 5.0 g | CC=1C=C(C=O)C=CC1OC | C9H10O2
solvent | ethanol | about 100 mL | C(C)O | C2H6O
product | 3-methyl-4-methoxy-4'-nitrostilbene | 0.0157 mole, 4.946 g, 47.6% yield | CC=1C=C(C=CC1OC)C=CC1=CC=C(C=C1)[N+](=O)[O-] | C16H15NO3
